Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope, palpitations
 
Major Surgical or Invasive Procedure:
___ - Direct current cardioversion

 
History of Present Illness:
This is a ___ F with history of recurrent vasovagal syncope, 
afib s/p ___ transferred from ___ 
after a syncopal episode. Patient reports that last night at 
1:30 AM she had severe gas pains (she has been having 
intermittant diarrhea for the past few weeks). After moving her 
bowels, she became lightheaded. She has a history of syncope 
since she was a teenager, and this was consistent with her 
typical episodes. She tried to brace herself, but fell and lost 
consciousness (she thinks only for a few minutes). She did 
strike her head. Upon awakening, immediately had episode of 
vomiting and diarrhea. She denies any further vomiting or 
diarrhea through the course of the day today. She denies any 
recent chest pain, dyspnea on exertion, leg swelling, orthopnea. 
 

This morning, she reports feeling "not right" and noticed new 
palpitations. She went to ___ to rule out head 
trauma. At ___, initial vitals were 106/86, 137, 27, 
97%/RA. EKG showed afib with RVR.  
Of note, she previously had episode of afib during pregnancy, 
and was DC cardioverted at that time. During that episode, she 
had palpitations similar to what she felt this morning. She was 
given 20mg IV diltiazem and 60mg PO diltiazem and started on 
heparin gtt. Cardiology there recommended cardioversion. She 
requested transfer to ___ as she had been seen by cardiology 
here previously.  

In the ___ ED intial vitals were: 97.6 110 118/66 18 98% RA. 
CTA chest negative for pulmonary embolism, but was suggestive of 
pulmonary hypertension. CT head without evidence of intracranial 
abnormality.  
On the floor, patient reports ongoing palpitations and feeling 
generally weak. Reports pain and looseness of left canine tooth 
(had previous root canal on that tooth). 
 
Past Medical History:
- syncope: felt to be vasovagal, ___ episodes per year since 
approximately age ___  
- subclinical hypothyroidism during pregnancy  
- depression/anxiety  
- hx of afib during pregnancy s/p DC cardioversion ___  
 
Social History:
___
Family History:
Father with diabetes and hypertension. Brother with diabetes and 
arrhythmia. Mother with heart murmur and osteopenia. Maternal 
grandfather with diabetes ___ and CAD in his ___. Maternal 
grandmother with breast cancer in her late ___. Maternal great 
aunt with breast cancer also postmenopausal. Paternal 
grandmother was deceased at ___, had colon cancer. No ovarian 
cancer, only one sibling.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals- 98.4, 121/77, 91, 18, 96%/RA  
General- Alert, oriented, no acute distress  
HEENT- Abrasion on left temple, bruising of face. Sclera 
anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- irregularly irregular, no murmurs  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal 

DISCHARGE PHYSICAL EXAM:
Vitals- 98.0, 97/66, 81, 20, 97%RA  
General- Alert, oriented, no acute distress  
HEENT- Abrasion on left temple, ecchymoses around left eye. 
Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- RRR, normal s1/s2, no m/r/g  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS
___ 02:40PM BLOOD WBC-9.9# RBC-4.70 Hgb-13.5 Hct-41.3 
MCV-88 MCH-28.6 MCHC-32.5 RDW-13.4 Plt ___
___ 02:40PM BLOOD Neuts-70.4* ___ Monos-4.6 Eos-0.8 
Baso-0.8
___ 02:40PM BLOOD ___ PTT-150* ___
___ 02:40PM BLOOD Glucose-155* UreaN-14 Creat-1.0 Na-140 
K-3.5 Cl-105 HCO3-22 AnGap-17
___ 02:40PM BLOOD Calcium-9.1 Phos-2.6* Mg-2.2
___ 02:38PM BLOOD Lactate-1.2

INTERVAL LABS
___ 06:30AM BLOOD TSH-7.0*
___ 06:30AM BLOOD T4-4.3* T3-84 Free T4-1.0

DISCHARGE LABS
___ 06:35AM BLOOD WBC-7.7 RBC-4.64 Hgb-13.9 Hct-41.5 MCV-89 
MCH-30.0 MCHC-33.6 RDW-13.7 Plt ___
___ 06:35AM BLOOD Glucose-94 UreaN-10 Creat-0.9 Na-139 
K-4.6 Cl-106 HCO3-24 AnGap-14

MICRO
None

IMAGING
CT Head ___
No acute intracranial abnormality. No fracture.  

CTA Chest ___
1. No pulmonary embolism. 
2. Evidence of pulmonary arterial hypertension. 

TTE ___
The left atrium is mildly dilated. The interatrial septum is 
aneurysmal. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
There is borderline pulmonary artery systolic hypertension. 
There is no pericardial effusion. 

IMPRESSION: Normal global and regional biventricular systolic 
function. Atrial septal aneurysm without color Doppler evidence 
of PFO/ASD
 
Brief Hospital Course:
___ F with history of recurrent vasovagal syncope, afib s/p ___ 
___ transferred from ___ after a 
syncopal episode found to have atiral fibrillation with RVR. 

ACTIVE ISSUES
# Syncopal episode
Patient reports ___ year history of syncope, which is felt to be 
vasovagal in nature, and this episode (particularly prodrome) 
was similar to her previous episodes. Likely triggered by 
discomfort from abdominal cramping and diarrhea. Patient does 
report head strike and LOC, but head CT without signs of 
bleeding or fracture, neuro exam non-focal. This was less likely 
related to her afib, as she denies having any palpitations prior 
to syncopal episode and does report symptoms of lightheadedness. 
 No further syncopal events during the hospitalization.  

# Afib with RVR
Unclear etiology.  CTA today was negative for PE, but was 
suggestive of pulmonary hypertension. Most recent echo ___ 
showed only interatrial septal aneurysm. She was started on a 
heparin drip.  Patient had successful direct current 
cardioversion and was discharged in sinus rhythm.  Had repeat 
TTE which showed atrial septal aneurysm with EF >55%.  She was 
transitioned to rivaroxaban with a plan of 3 weeks of treatment. 


# Hypothyroidism
Patient found to have TSH on admission of 7.0.  She was started 
on levothyroxine 25mg daily.

# Gas and increased frequency of bowel movements
Ongoing for several weeks and is thought to be related to 
Zoloft, which she started a few months ago. Did have episode of 
vomiting, but this was right after syncopal episode and has not 
recurred. No infectious signs/symptoms. Chem panel unremarkable. 
 

CHRONIC ISSUES
# Depression 
- Her home Zoloft was continued.

Transitional Issues:
- Patient will need to take rivaroxaban 20mg daily for 3 weeks.
- Patient found to have elevated TSH on admission and was 
started on levothyroxine.  She will need repeat TSH in ___ 
weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
 
Discharge Medications:
1. Sertraline 100 mg PO DAILY 
2. Levothyroxine Sodium 25 mcg PO DAILY 
RX *levothyroxine 25 mcg 1 tablet(s) by mouth DAILY Disp #*30 
Tablet Refills:*1
3. Rivaroxaban 20 mg PO DAILY 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth IN THE 
EVENING, DAILY Disp #*30 Tablet Refills:*0
4. Multivitamins 1 TAB PO DAILY 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
1. Syncope (vasovagal)
2. Atrial fibrillation with rapid ventricular response

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to the Internal Medicine service at ___ 
___ on the medicine service 
regarding management of your atrial fibrillation (atypical heart 
rhythm). ___ were treated with rate controlling medications, but 
on ___ underwent a cardioversion which was successful and 
___ are in normal sinus rhythm. ___ will remain on a blood 
thinner, an oral medication called rivaroxaban, and will 
continue this for 3-weeks and see your cardiologist in 1-week 
following discharge.
 
Please call your doctor or go to the emergency department if:
* ___ experience new chest pain, pressure, squeezing or 
tightness.
* ___ develop new or worsening cough, shortness of breath, or 
wheezing.
* ___ are vomiting and cannot keep down fluids, or your 
medications.
* If ___ are getting dehydrated due to continued vomiting, 
diarrhea, or other reasons. Signs of dehydration include: dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.
* ___ see blood or dark/black material when ___ vomit, or have a 
bowel movement.
* ___ experience burning when ___ urinate, have blood in your 
urine, or experience an unusual discharge.
* Your pain is not improving within 12 hours or is not under 
control within 24 hours.
* Your pain worsens or changes location.
* ___ have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
* ___ develop any other concerning symptoms.
 
Followup Instructions:
___